US08558028B2
Synthesis of N-(2-(1-[2-(4-chloro-phenoxy)- phenylamino]-2-phenyl-ethyl)-phenyl)-acetamide, MW 456.96
N-(2-([2-(4-Chloro-phenoxy)-phenylimino]-methyl)-phenyl)-acetamide (111 mg, assumed 100% pure, 0.3 mmol) was dissolved in THF (5 ml) and cooled to 0° C. under a N2 atmosphere, to this was added BF3OEt2 (0.04 ml, 0.3 mmol) and benzylmagnesium bromide (2 M in THF, 0.3 ml, 1.2 mmol). The resulting solution was stirred at r.t. for 18 h. The reaction was then quenched with sat. NH4Cl solution, extracted with EtOAc and dried (MgSO4). The crude product was purified by flash chromatography (0-20% EtOAc in DCM) to yield the desired product, 20 mg, 14% yield.

reactant | N-(2-([2-(4-Chloro-phenoxy)-phenylimino]-methyl)-phenyl)-acetamide | 0.3 mmol, 111 mg | ClC1=CC=C(OC2=C(C=CC=C2)N=CC2=C(C=CC=C2)NC(C)=O)C=C1 | C21H17ClN2O2
reactant | benzylmagnesium bromide | 1.2 mmol, 2 M, 0.3 ml | C(C1=CC=CC=C1)[Mg]Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-(2-(1-[2-(4-chloro-phenoxy)- phenylamino]-2-phenyl-ethyl)-phenyl)-acetamide | 14% yield | ClC1=CC=C(OC2=C(C=CC=C2)NC(CC2=CC=CC=C2)C2=C(C=CC=C2)NC(C)=O)C=C1 | C28H25ClN2O2
